US05827855
A-(1) Sodium (3R,5R)-3,5-dihydroxy-7-[(1S,2S,6S,8S,8aR)-6,8-dihydroxy-2-methyl-1,2,6,7,8,8a-hexahydro-1-naphthyl]heptanoate
50 ml (0.24 mol) of a 28% w/v solution of sodium methoxide in methanol were added to a solution of 100 g (0.31 mol) of (3R,5R)-3,5-dihydroxy-7-[(1S,2S,6S,8S,8aR)-6-hydroxy-2-methyl-8-[(S)-2-methyl-butyryloxy]-1,2,6,7,8,8a-hexahydro-1-naphthyl]heptanoate (pravastatin: prepared as described in U.S. Pat. No. 4,346,227) in 900 ml of methanol, and the resulting mixture was heated under reflux for 60 hours. At the end of this time, the mixture was cooled to room temperature, and the methanol was then removed from the reaction mixture by distillation under reduced pressure. The resulting residue was washed with 200 ml of hexane and then dried in vacuo to give 120 g of the title compound.

reactant | sodium methoxide | C[O-].[Na+]
reactant | (3R,5R)-3,5-dihydroxy-7-[(1S,2S,6S,8S,8aR)-6-hydroxy-2-methyl-8-[(S)-2-methyl-butyryloxy]-1,2,6,7,8,8a-hexahydro-1-naphthyl]heptanoate | 0.31 mol, 100 g | O[C@@H](CC(=O)[O-])C[C@@H](CC[C@H]1[C@H](C=CC2=C[C@H](C[C@@H]([C@H]12)OC([C@H](CC)C)=O)O)C)O
reactant | pravastatin | CC[C@H](C)C(=O)O[C@H]1C[C@@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@H](C[C@H](CC(=O)O)O)O)O | C23H36O7
solvent | methanol | CO | CH4O
solvent | methanol | 900 ml | CO | CH4O
product | Sodium (3R,5R)-3,5-dihydroxy-7-[(1S,2S,6S,8S,8aR)-6,8-dihydroxy-2-methyl-1,2,6,7,8,8a-hexahydro-1-naphthyl]heptanoate | 120 g | O[C@@H](CC(=O)[O-])C[C@@H](CC[C@H]1[C@H](C=CC2=C[C@H](C[C@@H]([C@H]12)O)O)C)O.[Na+] | InChI=1S/C18H28O6.Na/c1-10-2-3-11-6-13(20)8-16(22)18(11)15(10)5-4-12(19)7-14(21)9-17(23)24;/h2-3,6,10,12-16,18-22H,4-5,7-9H2,1H3,(H,23,24);/q;+1/p-1/t10-,12+,13+,14+,15-,16-,18-;/m0./s1
